US08865704B2
trans-4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexanecarboxylic acid
To a solution of trans-4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexanecarboxylic acid methyl ester (0.3 g, 0.95 mmol) in dioxane (7 mL) at 0° C. was added a 2N solution of LiOH. The reaction mixture was stirred at 0° C. for 20 min, allowed to reach ambient temperature and stirred additionally for 2 h. Then a 1N solution of HCl was added until acid pH, and the mixture was extracted with EtOAc, The organic layer was dried over Na2SO4 and solvent removed under reduced pressure to afford the titled compound (0.3 g, 96%).

reactant | trans-4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexanecarboxylic acid methyl ester | 0.95 mmol, 0.3 g | COC(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=C(CC1)C=CC=C2)=O | C18H24N2O3
reactant | LiOH | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | trans-4-(2-oxo-1,2,4,5-tetrahydro-benzo[d][1,3]diazepin-3-ylmethyl)-cyclohexanecarboxylic acid | 0.3 g, 96% | O=C1N(CCC2=C(N1)C=CC=C2)C[C@@H]2CC[C@H](CC2)C(=O)O | C17H22N2O3
